US04154834
5-(3-Pyridylmethyl)-2-methylthio-4-pyrimidone (1.74 g) was reacted with 2-(2-thiazolylmethylthio)-ethylamine (1.30 g) according to the procedure in Example 2. The reaction mixture was triturated in hot water to give 2-[2-(2-thiazolylmethylthio)-ethylamino]-5-(3-pyridylmethyl)-4-pyrimidone and this product was treated with dilute hydrobromic acid to give the title compound, m.p. 229°-233.5° (ex. methanol-water).

reactant | 5-(3-Pyridylmethyl)-2-methylthio-4-pyrimidone | 1.74 g | N1=CC(=CC=C1)CC=1C(NC(=NC1)SC)=O | C11H11N3OS
reactant | 2-(2-thiazolylmethylthio)-ethylamine | 1.30 g | S1C(=NC=C1)CSCCN | C6H10N2S2
product | 2-[2-(2-thiazolylmethylthio)-ethylamino]-5-(3-pyridylmethyl)-4-pyrimidone | S1C(=NC=C1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C16H17N5OS2
